Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache and right-sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Ms. ___ is a ___ woman, postpartum 20 days,
with a significant past medical history for recurrent blood 
clots
and gestational hypertension during her prior pregnancy ___ years
prior), which required treatment with Lovenox.  The patient
presents today from an outside hospital ___)

The patient states she was in her usual state of health the 
night
before.  She went to bed and slept throughout the night. 
Hospital) after she woke up early this morning with a headache
and right-sided weakness arm greater than leg.  On ___
morning, the patient awoke and noted that she had a dull 
headache
that wrapped around her head but was more concentrated in the
back.  She attempted to reach for her cell phone to check with
time it was but noticed that her arm felt incredibly heavy and
very weak.  She had a difficult time lifting it up to grab her
phone but is able to do so.  She then noted that she was not 
able
to dial her passcode to look at her phone.  The patient's
headache then began to increase in severity.  She called her
husband who then stood her up and noted that she was able to 
walk
but felt a little unsteady.  They decided to go to the hospital
to be evaluated.  At ___, the patient stated that
she was noted to be hypertensive to above 140s.  At ___ they performed imaging of the brain including
noncontrast CT of the head, CTA head and neck, and CTV which 
were
unremarkable.  The patient was then transferred to ___ for
further evaluation and management.

After she presented to the hospital and was given medications 
her headache improved dramatically.  The headache never worsened
in severity and she did not experience any visual symptoms, neck
pain, nor any difficulties with language, speech, nor left-sided
symptoms along with a headache.  The patient states that her
right-sided feeling of heaviness and weakness persisted
throughout the day but did not acutely worsen or improve.  She
denies any other symptoms such as infectious, back pain, seizure
activity, confusion.  Patient states that ___ years ago when she
was pregnant with her first child she was found to have multiple
blood clots in her legs and was required to stay on Lovenox for 
a
few months after pregnancy.  Currently, the patient states that
she did not have issues with blood clots during her pregnancy
however she notes that her legs are slightly swollen since
delivering her second child just over 20 days ago.  The patient
does have a history of having migraine headaches, however these
are typically are not associated with any neurologic symptoms
such as today.  Currently at the time of encounter, the 
patient's
headache has resolved however the numbness in the right arm and
weakness is still present.

On neurologic review of systems, the patient denies
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies bowel or bladder incontinence or retention.
Denies difficulty with gait.  

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. No recent change in
bowel or bladder habits. Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.  
 
Past Medical History:
PMH/PSH:
1.  DVTs in the setting of pregnancy ___ years ago, treated on
Lovenox
2.  Gestational hypertension
3.  Overweight
4.  Migraine headaches

 
Social History:
___
Family History:
FAMILY HISTORY: 
1. Grandmother with stroke (maternal)
 
Physical Exam:
DSICHARGE PHYSICAL EXAM:
=========================
Vitals: Tm 98.7 Tc98.2  BP: 106-125/67-86 HR: ___  RR: ___ 
SaO2: 96-97% 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: bilateral ___ edema 

Neurologic:
-Mental Status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
paraphasias. No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 

-Cranial Nerves: PERRL 3->2 brisk. Bilateral blink to threat
intact. EOMI without nystagmus. Face appears slightly asymmetric
with left side weakness. Intact facial sensation. Facial
sensation intact to light touch. 
Hearing intact to conversation. Palate elevates
symmetrically. SCM/Trapezius strength ___ bilaterally. Tongue
midline. Tongue protrudes slightly towards right.

-Motor: +Right pronotar drift present. +Orbiting around Right
arm. Normal bulk, tone throughout. o adventitious movements, 
such
as tremor, noted. No asterixis noted.
    Delt Bic Tri  WrE   FFl FE IO IP Quad Ham TA Gastroc 
 L  5    5     5    5    5  5     5   5    5  5     5    
 R  4+   4+    4+   4+   5  4     5   5    5  5     5     

-Sensory: Intact to LT throughout. Intact proprioception and
vibratory sensation. 

-DTRs:
     Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
   L  2+  2+   2+    2        -              -
   R  2+  2+   2+    2        -              -
Plantar response was flexor bilaterally.

Coordination - patient very slow with finger-nose-finger on
right, no dysmetria. Slow and clumsy rapid alternating movements
in the right upper extremity likely limited by weakness.

Gait -deferred at this time given patient's headache, however
has been endorses she was able to walk earlier without any 
complications.

 
Pertinent Results:
ADMISSION LABS:
================
___ 09:55PM BLOOD WBC-7.0 RBC-4.23 Hgb-11.8 Hct-36.5 MCV-86 
MCH-27.9 MCHC-32.3 RDW-12.9 RDWSD-40.6 Plt ___
___ 09:55PM BLOOD Neuts-52.3 ___ Monos-6.3 Eos-2.7 
Baso-0.9 Im ___ AbsNeut-3.64 AbsLymp-2.60 AbsMono-0.44 
AbsEos-0.19 AbsBaso-0.06
___ 09:55PM BLOOD ___ PTT-32.3 ___
___ 09:55PM BLOOD Plt ___
___ 09:55PM BLOOD Glucose-84 UreaN-16 Creat-0.6 Na-135 
K-3.8 Cl-100 HCO3-23 AnGap-16
___ 09:55PM BLOOD ALT-23 AST-18 AlkPhos-107* TotBili-0.3
___ 09:55PM BLOOD cTropnT-<0.01
___ 09:55PM BLOOD Albumin-4.0 Calcium-9.5 Phos-4.0 Mg-2.0
___ 09:55PM BLOOD LDLmeas-131*
___ 09:55PM BLOOD TSH-1.0

DISCHARGE LABS:
================
___ 05:30AM BLOOD WBC-6.3 RBC-4.17 Hgb-11.6 Hct-36.2 MCV-87 
MCH-27.8 MCHC-32.0 RDW-12.9 RDWSD-40.8 Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD ___ PTT-30.5 ___
___ 05:05PM BLOOD FacVIII-139
___ 05:05PM BLOOD AT-114 ProtCFn-129 ProtSFn-101
___ 05:05PM BLOOD Lupus-NEG
___ 05:30AM BLOOD Glucose-99 UreaN-27* Creat-0.9 Na-140 
K-4.2 Cl-104 HCO3-23 AnGap-17
___ 05:30AM BLOOD Calcium-9.3 Phos-5.1* Mg-2.0
___ 05:05PM BLOOD VitB12-1093*
___ 03:16AM BLOOD %HbA1c-5.1 eAG-100
___ 05:25AM BLOOD Homocys-9.2
___ 01:38PM BLOOD Triglyc-126 HDL-53 CHOL/HD-3.7 
LDLcalc-118
___ 09:55PM BLOOD LDLmeas-131*

PERTINENT IMAGING:
==================
___: Imaging MR HEAD W/O CONTRAST 
1. Left parietal white matter lesion likely subacute infarction. 

2. Multiple deep and subcortical lesions most likely epresenting
chronic infarction. 

___ Imaging MR CERVICAL SPINE W/O C 
Mild multilevel degenerative changes, with a midline disc
protrusion slightly indenting the spinal cord at C3-4.  No other
neural foraminal or spinal canal stenosis. 

___:  TEE 
Intact intra-atrial septum with Doppler and saline with
maneuvers. Mildly thickened trileaflet aortic valve with 
moderate
aortic regurgitation.  

___ Imaging BILAT LOWER EXT VEINS 
No evidence of deep venous thrombosis in the right or left lower
extremity veins. 

___ MRV Pelvis: IMPRESSION:  
1. No evidence of pelvic DVT. 
2. Heterogeneous endometrium toward the left fundus. Correlate
with history of postpartum bleeding as retained fetal products
cannot be entirely excluded. 

Images at outside ___ ___) include CT head 
without
contrast, CTA head and neck, CTV.  No acute intracranial
abnormalities.
 
Brief Hospital Course:
Ms. ___ is a ___ female 20 days postpartum with 
a history of migraine headaches and recurrent DVTs in her prior 
pregnancy ___ years prior, treated with Lovenox) who presents 
from an outside hospital after she awoke earlier in the day with 
right arm greater than right leg weakness and a persistent 
posterior headache. 

NEURO:
#Ischemic stroke
#c/f DVT/paradoxical embolus vs cardiac source vs postpartum 
angiopathy vs hypercoagulable state: 
At the time of initial presentation to ___ 
___), CT imaging at the OSH was negative for 
hemorrhage/venous clot and showed patent vasculature. However 
patient had continued right upper extremity weakness and was 
transferred to ___ for further stroke workup. At ___, 
patient was admitted to the stroke Neurology service and was 
noted to have persistent right upper extremity weakness with 
pronator drift, orbiting, and delayed finger tapping. An MRI was 
obtained which showed evidence of a left parietal white matter 
lesion representing an acute to subacute infarction. Patient 
further had evidence of multiple deep and subcortical 
right-sided lesions which likely represent chronic infarction, 
on FLAIR imaging. Patient was ___ postpartum, and patients 
ischemic stroke was worrisome for a paradoxical embolism from 
DVT due to patients prior known history of DVTs during pregnancy 
___ years prior requiring therapeutic Lovenox) vs cardiac 
etiology for patients likely thromboembolic stroke. However, TEE 
to assess for PFO was negative with no evidence of PFO or ASD, 
as well as no evidence of a left atrial appendage clot or LV 
thrombus. Furthermore, lower extremity ultrasound was negative 
for DVT. Due to the unclear nature of patients stroke etiology, 
further workup for venous thromboembolism was carried out with 
MRV pelvis which was negative, as well as a hypercoagulable 
workup as noted below, which was pending at the time of 
discharge. Patients workup for the etiology of patients stroke 
has thus far been largely unremarkable, with only elevated LDL 
of 131 but otherwise normal TSH, A1c, lipid panel, negative TEE 
with no evidence of PFO or left atrial appendage/LV thrombus, 
negative lower extremity ultrasound and negative MRV of the 
pelvis. Thus, patient had a cryptogenic stroke of unclear 
etiology, and was started on on Aspirin 81mg which she will 
continue after discharge while her hypercoagulable workup is 
completed. Furthermore, she was started on atorvastatin 40mg qhs 
for elevated LDL. Patient was instructed to continue Aspirin 81 
mg daily given her fixed neurologic deficits and likely 
diagnosis of cryptogenic stroke, as no clear etiology for 
patients stroke could be identified. Patient may require further 
systemic anticoagulation if outpatient hypercoagulable workup is 
notable for an underlying etiology. At the time of discharge 
patient had pending hypercoagulable workup including 
Homocysteine, B12, Protein C, Protein S, Factor VIII, 
Anti-phospholipid, anti-cardiolipin, B-2 glycoprotein, Lupus 
anticoagulant, Antithrombin III. Furthermore, patient will have 
outpatient genetic testing including prothrombin, Factor V 
___ and ___ testing. Patient will take part in 
outpatient OT to progress her RUE weakness, and will followup in 
Neurology clinic in ___ weeks.

#Cardiology: patient's TEE was negative for a PFO/ASD or 
intracardiac clot. However, 
pts TEE on this admission showed slightly reduced LVEF of 50% 
and thickened trileaflet Aortic valve with moderate Aortic 
Regurgitation. Patient was advised to followup with cardiology 
due to her mildly decreased EF and findings on her ECHO. During 
this admission, patient was otherwise hemodynamically stable 
with well controlled HR and blood pressures.

#GI: on this admission, no acute GI issues were identified

#Renal: on this admission, patient had normal BUN/Cr, and no 
acute renal issues were identified.

#FEN: patient was maintained on a regular diet on this 
admission, with no difficulties swallowing on this admission. 

# Heme: patient was started on ASA 81 mg for anticoagulation for 
presumed cyrpotgenic stroke as her hypercoagulable workup is 
completed. Furthermore, patient was maintained on subcutaneous 
heparin and pneumatic boots for DVT prophylaxis while admitted 
as an inpatient.

#Endo: patient had no acute endocrine issues at this time, with 
normal AM serum blood glucose levels during this admission

#MSK: patient was evaluated by OT on this admission, who 
recommended outpatient OT to progress RUE strength. Patient was 
provided instructions and a prescription for outpatient OT, and 
will followup in neurology clinic to assess his RUE weakness.

=
=
================================================================
Transitional issues:
=
=
================================================================
[ ] Please follow up patients right upper and right lower 
extremity weakness which was appreciated during this admission 
after patients reassumed L parietal stroke. Patient was 
discharged on Aspirin 81 daily as noted below as well as 
outpatient OT. 
[ ] Please monitor patients anticoagulation. Put had a 
cryptogenic stroke, thus was discharged on aspirin 81mg daily. 
Patient may warrant further systemic anticoagulation if patients 
hypercoagulable work up is positive. 
[] Please arrange an outpatient cardiology clinic visit due to 
pts TEE findings of a slightly reduced LVEF of 50% and thickened 
trileaflet Aortic valve with moderate Aortic Regurgitation
[ ] Please follow up patients hypercoagulable genetic work up: 
factor V Leiden, prothrombin and ___ testing, which 
will be obtained as an outpatient.
[ ] Please follow up patients inpatient hypercoagulable work up 
which was pending at the time of discharge, including 
Antithrombin III, protein C/S, Lupus anticoagulant, Homocystein, 
Cardiolipin antibiodies, beta-2-glycoprotein antibodies

=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes (aspirin 81mg daily) - () No
4. LDL documented? (x) Yes (LDL = 131) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - Aspirin 81mg daily () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth every night Disp 
#*60 Tablet Refills:*0 
3.Outpatient Occupational Therapy
OT evaluation and treatment for right upper weakness after L 
ischemic stroke. Please evaluate and treat to progress right 
upper extremity strength and coordination 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Ischemic stroke: Left parietal acute/subacute infarction. 
- Multiple deep and subcortical right-sided lesions representing 
chronic infarcts

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you during your stay at ___.

You were admitted to the Neurology service after presenting to 
the ED with right arm and right leg weakness resulting from an 
ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms. 

While your initial CT imaging showed no evidence of a bleed or 
clot in the brain, an MRI of the brain showed a new left sided 
stroke. Furthermore, you had evidence of several older strokes 
on the right side. Stroke can have many different causes, so we 
assessed you for medical conditions that might raise your risk 
of having stroke. You were assessed with an echocardiogram of 
your heart, Ultrasound of your legs, an MRI of your pelvis and 
several lab studies. All of the tests have been negative thus 
far, except for a slightly elevated LDL cholesterol. At this 
time, we do not know why you have had strokes. Due to the 
concern for future strokes, you were started on Aspirin and 
atorvastatin to reduce the likelihood of a future stroke. 
Furthermore, you had several labarotary tests that were taken 
while you were admitted in the hospital to look for why you 
might be more prone to developing clots. You will followup in 
Neurology clinic with Dr. ___ as indicated below, at which 
time the results of these studies will be discussed. 

Please followup at the appointment that has been arranged on 
your behalf. Please also continue to take the medications as 
prescribed below unless you are directed to discontinue them by 
your physician. 

We are changing your medications as follows:
- Please start Aspirin 81mg daily
- Please start Atorvastatin 40mg daily at night
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

It was a pleasure being involved in your care.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___